US04235912
The process is carried out as in Example 4 with the difference that 0.6 g (0.00213 moles) of 6-methyl-8β-hydrazinomethyl-ergoline and 0.25 g (0.00234 moles) of dimethylcarbamoyl chloride are used as the starting substances. 0.5 g (69%) of 6-methyl-8β-([N'-dimethylcarbamoyl-hydrazino]-methyl)-ergoline are obtained; m.p.: 205°-206° C., [α]D20 =-36.2° (c=1, in 96% ethanol).

reactant | 6-methyl-8β-hydrazinomethyl-ergoline | 0.00213 moles, 0.6 g | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CNN | C16H22N4
reactant | dimethylcarbamoyl chloride | 0.00234 moles, 0.25 g | CN(C(=O)Cl)C | C3H6ClNO
product | 6-methyl-8β-([N'-dimethylcarbamoyl-hydrazino]-methyl)-ergoline | 0.5 g, 69% | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CNNC(N(C)C)=O | C19H27N5O
